### PR TITLE
feat(LinearAlgebra/Matrix/SchurComplement): rank-one determinant formula `det(1 - φ•c) = 1 - φ c`

### PR DESCRIPTION
**Pull request by tobias-weiss-ai-xr**
Adds `LinearMap.det_one_sub_smulRight`: for a linear functional `φ : M →ₗ[R] R` and a vector `c : M` over a nontrivial commutative ring, the determinant of the rank-one endomorphism `x ↦ φ x • c` shifted by the identity is `1 - φ c`:

```lean
theorem det_one_sub_smulRight [Nontrivial R] [Module.Free R M] [Module.Finite R M]
    (φ : M →ₗ[R] R) (c : M) :
    LinearMap.det ((1 : M →ₗ[R] M) - φ.smulRight c) = 1 - φ c
```

This lifts the rank-one specialization of the Weinstein–Aronszajn identity (`Matrix.det_one_sub_mul_comm`) to endomorphisms of a finite free module via `LinearMap.det_toMatrix`.

- The new import `Mathlib.LinearAlgebra.Determinant` into `SchurComplement.lean` is acyclic (Determinant does not import SchurComplement).
- Verified to build warning-free under the pinned toolchain.

### CODE REVIEW

**Comment by tobias-weiss-ai-xr** [comment]
Rebased onto current master (the previous base predated the cache storage-layout migration, which broke the CI cache step). Built warning-free locally with the pinned toolchain. Requesting the topic label `t-linear-algebra`.

File: Mathlib/LinearAlgebra/Matrix/SchurComplement.lean [hunk 1]
```diff
@@ -446,3 +447,54 @@ end Det
...
+variable {M : Type*} [AddCommGroup M] [Module R M]
+
+/-- The rank-one determinant formula: for a linear functional `φ : M →ₗ[R] R` and a
+center `c : M`, the determinant of `1 - (x ↦ φ x • c)` is `1 - φ c`. This is the
+rank-one specialization of the Weinstein–Aronszajn identity above, lifted to
+endomorphisms of a finite free module, and the finite-dimensional seed of the
+Fredholm determinant. -/
+theorem det_one_sub_smulRight [Nontrivial R] [Module.Free R M] [Module.Finite R M]
+    (φ : M →ₗ[R] R) (c : M) :
+    LinearMap.det ((1 : M →ₗ[R] M) - φ.smulRight c) = 1 - φ c := by
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/SchurComplement.lean:463]: You should first add
```lean
theorem LinearMap.toSpanSingleton_comp (f : N →ₗ[R] R) (x : M) :
    toSpanSingleton R M x ∘ₗ f = f.smulRight x := rfl
```
(we already have this for continuous linear maps, but not for linear)

Then you should also add
```lean
theorem LinearMap.det_one_sub_comp_comm (f : M →ₗ[R] N) (g : N →ₗ[R] M) :
    det (1 - g ∘ₗ f) = det (1 - f ∘ₗ g) := by
```
(we already have this for matrices, but not for linear maps)

Then the proof of this would literally just be two lines:
```lean
  rw [← toSpanSingleton_comp, det_one_sub_comp_comm]
  simp
```
